Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa(Sulfonamide Antibiotics) / Percocet
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ year old male with h/o multiple myeloma who presents with
fever 101.6 and cough. He is s/p stem cell transplant ___, on
revlimid maintenance. Symptoms began with URI last week, for
about 4 days, now 2 days fever, chills. Denies any sick 
contacts.
Denies any nausea, diarrhea, dysuria, or constipation.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
 Mr. ___ is a ___ yo gentleman who presented to his PCP ___
___ which persistent upper and lower back pain for several
weeks. He described this pain as aching and pressure like of
moderate to severe intensity. Pain is increased with any
movement. He had tried ibuprofen without complete relief of
symptoms. He at one time had felt a snap in his back while
lifting a suitcase. CXR of the throacic and lumbar spine was
done, which showed a compression fracture at T8. Labs were
subsequently drawn which show anemia with a hemoglobin of 13.0,
calcium of 10.7. SPEP showed a 1.8 g/dL IgG kappa monoclonal
band. Immunoelectrophoresis was not done. Serum free light 
chains
showed a very elevated free kappa at 871. ESR was 30. Creatinine
was normal at 1.1. UPEP was not drawn.  
 ___ Bone marrow biopsy aspirite with 58% abnormal plasma
cells, consistent with MM. Cytogenetics and surgical pathology
not available yet.  
 ___ Skeletal survey: Likely 3.8 cm expansile lesion left
seventh posterior rib, rib films can be obtained for
confirmation. Mild compression fracture superior endplate one of
the lower thoracic vertebral body probably T9. Degenerative
changes spine. 4 mm focus of sclerosis right humeral head.  
 ___ Spine MRI: Focal abnormalities within T6, T9, T12, L2
and L3 vertebral bodies and andsacrum are suggestive of
infiltrative process which can be due to metastasis.There is no
cord compression seen. Minimal epidural soft tissue changes are
seen on the right at T6 and T12 level.  
 ___: C1 RVD  
 ___: C4 RVD. Cytoxan added.  
 ___: C6  
 ___: Auto stem cell transplant BWH.  
 ___: restarted RVD and zometa for maintenance  
 PAST MEDICAL/SURGICAL HISTORY:  
 Hypercholesterolemia  
 
Social History:
___
Family History:
Father with HTN. MGM with colon CA. 
 
Physical Exam:
Vitals:  T 98.2 BP 134/86 HR 77 RR 18 O2 96%RA
 Gen: Pleasant, calm  
 HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
 NECK: Supple  
 CV: Normal S1,S2. No MRG.  
 LUNGS: No incr WOB. CTAB. No wheezes, rales, or rhonchi.  
 ABD: Soft, NT, ND.  
 EXT: No ___ edema.  
 SKIN: No rashes/lesions, petechiae/purpura ecchymoses.  
 NEURO: A&Ox3. No focal deficits.  
 
Pertinent Results:
___ 03:41AM BLOOD WBC-3.7* RBC-4.57* Hgb-14.4 Hct-42.6 
MCV-93 MCH-31.5 MCHC-33.8 RDW-13.0 RDWSD-44.0 Plt Ct-98*
___ 06:35AM BLOOD WBC-3.2* RBC-4.14* Hgb-13.1* Hct-39.1* 
MCV-94 MCH-31.6 MCHC-33.5 RDW-12.8 RDWSD-44.0 Plt Ct-87*
___ 06:35AM BLOOD Glucose-119* UreaN-10 Creat-0.9 Na-140 
K-3.7 Cl-104 HCO3-27 AnGap-13
___ 06:35AM BLOOD ALT-40 AST-37 AlkPhos-68 TotBili-0.7
___ 06:35AM BLOOD Calcium-8.6 Phos-2.2* Mg-1.9

CXR: No acute intrathoracic abnormality.
 
Brief Hospital Course:
___ yo male with a history of multiple myeloma on revlimid who is
admitted with a cough and fever.

Upper Respiratory Infection
- While admitted the patient remained afebrile and cultures had 
no growth to date. He felt much better on the day of discharge 
after IV Fluids. Chest X-ray did not show a clear pneumonia. 
Discussed with his primary oncology team and will continue 
levofloxacin as an outpatient to finish a seven day course.

Multiple myeloma
- Continued home revlimid. Will follow up with his primary 
oncologist as an outpatient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lenalidomide 5 mg PO DAILY 
2. Gabapentin 600-900 mg PO TID 
3. OxyCODONE SR (OxyconTIN) 10 mg PO QAM 
4. Multivitamins 1 TAB PO DAILY 
5. Aspirin 325 mg PO DAILY 
6. Loratadine 10 mg PO DAILY 
7. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN Pain 
8. Vitamin D 1000 UNIT PO DAILY 
9. Vitamin B Complex 1 CAP PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Gabapentin 600-900 mg PO TID 
3. Loratadine 10 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN Pain 
6. OxyCODONE SR (OxyconTIN) 10 mg PO QAM 
7. Vitamin B Complex 1 CAP PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. Lenalidomide 5 mg PO DAILY 
10. Levofloxacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth Daily Disp #*5 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Upper Respiratory Infection
Multiple Myeloma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with fevers and cough and thought to have an 
upper respiratory infection. You were started on levofloxacin 
which you will continue as an outpatient.
 
Followup Instructions:
___